US07772221B2
Step AJ (2): To a solution of 1-bromo-2-(dimethoxymethyl)-4-(trifluoromethyl)benzene (1060 mg, 3.544 mmol) in THF (10 mL) at −78° C. was added 1.6N solution of n-butyl lithium in hexanes (4.43 mL, 7.088 mmol). The resulting mixture was stirred at −78° C. for 15 min. 5-Bromopent-1-ene (0.42 mL, 3.544 mmol) was added by drops. The reaction mixture was warmed to rt and stirred overnight. Aqueous hydrochloric acid solution (1N) was added and the reaction mixture was stirred at rt for 3 h. The reaction was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum. The residue was purified by silica gel chromatography to give 2-(pent-4-enyl)-5-(trifluoromethyl)benzaldehyde (858.0 mg, 100%) as a brown oil. LC-MS (M+H)+=243.09. 1H NMR (CDCl3, 500 MHz) δ 10.30 (s, 1H) 8.22-7.35 (m, 3H) 7.06 (m, 1H) 5.83 (m, 1H) 5.10-5.00 (m, 2H) 3.84 (s, 3H) 2.16 (m, 2H) 1.75 (m, 2H) 1.60 (m, 2H).

reactant | 1-bromo-2-(dimethoxymethyl)-4-(trifluoromethyl)benzene | 3.544 mmol, 1060 mg | BrC1=C(C=C(C=C1)C(F)(F)F)C(OC)OC | C10H10BrF3O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 5-Bromopent-1-ene | 3.544 mmol, 0.42 mL | BrCCCC=C | C5H9Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(pent-4-enyl)-5-(trifluoromethyl)benzaldehyde | 858.0 mg, 100% | C(CCC=C)C1=C(C=O)C=C(C=C1)C(F)(F)F | C13H13F3O
